US07612075B2
Sodium hydride (60%, 0.27 g, 6.7 mmol) is added to a solution of 4-benzyloxycarbonyl-2-oxo-piperazine (1.58 g, 6.7 mmol) in dry DMF (40 mL). After 30 minutes 4-bromomethyl-piperidine-1-carboxylic acid tert-butyl ester (1.87 g, 6.7 mmol) is added and the reaction is allowed to stir for 16 h. The solvent is removed in vacuo and the residue is dissolved in ether and washed with NH4Cl. The aqueous phase is back-extracted with ether and the combined ether fractions are washed with water and brine to provide 4-(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester which is used without further purification. 1H NMR (300 MHz, CDCl3) δ 7.36 (s, 5H), 5.16 (d, 2H), 4.16 (s, 2H), 4.13 (br, 2H), 3.73-3.69 (m, 2H), 3.44-3.30 (m, 6H), 2.68 (bt, 2H), 1.85-1.73 (m, 1H), 1.58 (bd, 2H), 1.46 (s, 9H), 1.25-1.10 (m, 2H); MS (ion spray) 432 (M+H)+.

reactant | Sodium hydride | 6.7 mmol, 0.27 g | [H-].[Na+]
reactant | 4-benzyloxycarbonyl-2-oxo-piperazine | 6.7 mmol, 1.58 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)=O | C12H14N2O3
reactant | 4-bromomethyl-piperidine-1-carboxylic acid tert-butyl ester | 6.7 mmol, 1.87 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CBr | C11H20BrNO2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-(1-tert-butoxycarbonyl-piperidin-4-ylmethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C23H33N3O5
